US07211538B2
a) Preparation of potassium (3-trimethylsiloxypropyl)-cyclopentadienide
To a suspension of 0.4 g (10 mmol) of potassium hydride in tetrahydrofurane, 1.96 g (10 mmol) of a (3-trimethylsiloxy-propyl)-cyclopentadiene in tetrahydrofurane is added. The reaction is maintained under stirring for 2 hours. Subsequently, the resulting suspension is concentrated to dryness, leaving an oily solid that, when it is washed with hexane, gives a cream-coloured solid. (1.6 g, 7 mmol. Yield:70%).

reactant | potassium hydride | 10 mmol, 0.4 g | [H-].[K+]
reactant | (3-trimethylsiloxy-propyl)-cyclopentadiene | 10 mmol, 1.96 g | C[Si](OCCCC1=CC=CC1)(C)C | C11H20OSi
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | potassium (3-trimethylsiloxypropyl)-cyclopentadienide | Yield:70% | C[Si](OCCC[C-]1C=CC=C1)(C)C.[K+] | InChI=1S/C11H19OSi.K/c1-13(2,3)12-10-6-9-11-7-4-5-8-11;/h4-5,7-8H,6,9-10H2,1-3H3;/q-1;+1
